US08808703B2
A solution (4R,7S,10R,14R)-10-(((9H-fluoren-9-yl)methoxy)carbonylamino)-4-carbamoyl-7-ethyl-14-(hexadecyloxy)-6,9-dioxo-16-oxa-12-thia-5,8-diazadotriacontan-1-oic acid in acetonitrile (0.1M) was stirred at room temperature. Piperidine (final conc. 20%) was then added and the reaction stirred for 30 min After concentration, the product was purified by flash chromatography on an ISCO COMBIFLASH® system using a 0-10% MeOH/DCM gradient to give (4R,7S,10R,14R)-10-amino-4-carbamoyl-7-ethyl-14-(hexadecyloxy)-6,9-dioxo-16-oxa-12-thia-5,8-diazadotriacontan-1-oic acid. 1H NMR (DMSO d-6): δ 12.12 (br, s, 1H), 8.56(d, 1H), 8.14 (t, 2H), 8.12 (d, 1H), 7.25 (s, 1H), 7.05 (s, 1H), 4.21-4.34 (m, 2H), 3.95-3.97 (m, 1H), 3.44-3.52 (m, 3H), 3.32-3.40 (m, 3H), 2.96 (dd, 1H), 2.66-2.78 (m, 4H), 2.19 (t, 2H), 1.89-1.98 (m, 2H), 1.67-1.76 (m, 4H), 1.56-1.64 (m, 2H), 1.42-1.50 (m, 4H), 1.21-1.28 (m, 48H), 0.83-0.89 (m, 9H). LRMS [M+H]=857.7.

reactant | (4R,7S,10R,14R)-10-(((9H-fluoren-9-yl)methoxy)carbonylamino)-4-carbamoyl-7-ethyl-14-(hexadecyloxy)-6,9-dioxo-16-oxa-12-thia-5,8-diazadotriacontan-1-oic acid | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@H](C(N[C@H](C(N[C@H](CCC(=O)O)C(N)=O)=O)CC)=O)CSC[C@@H](COCCCCCCCCCCCCCCCC)OCCCCCCCCCCCCCCCC | C62H102N4O9S
reactant | Piperidine | N1CCCCC1 | C5H11N
solvent | acetonitrile | 0.1M | C(C)#N | C2H3N
product | (4R,7S,10R,14R)-10-amino-4-carbamoyl-7-ethyl-14-(hexadecyloxy)-6,9-dioxo-16-oxa-12-thia-5,8-diazadotriacontan-1-oic acid | N[C@H](C(N[C@H](C(N[C@H](CCC(=O)O)C(N)=O)=O)CC)=O)CSC[C@@H](COCCCCCCCCCCCCCCCC)OCCCCCCCCCCCCCCCC | C47H92N4O7S
